US05981528
5,6-Dihydro-4-trifluoromethylsulfonyloxy-2H-pyran
LDA/THF (31.5 ml of 1.92M solution) was slowly added to a stirred solution of tetrahydro-4H-pyran-4-one (5.5 g) in THF (30 ml) at -70° C., under argon. The mixture was stirred for 30 minutes at -70° C. and then a solution of N-phenyl triflimide (21.6 g) in THF (30 mls) was added. The mixture was allowed to warm to ambient temperature and stirred for 18 hours. The reaction mixture was evaporated and subjected to chromatography by MPLC on Alumina (ICN, N32-63, using as eluant a mixture of ethyl acetate (5%) and iso-hexane). The product was distilled by Kugelruhr (100° C./10 mm). Remaining traces of the triflimide reagent were removed by a second MPLC (Silica, using as eluant a mixture of ethyl acetate (5%) and iso-hexane) followed by a second Kugelruhr distillation, giving the title compound as a colourless oil in 40% yield (5.1 g), which was stored at -20° C.

reactant | LDA THF | 1.92M, 31.5 ml | [Li+].CC(C)[N-]C(C)C.C1CCOC1
reactant | tetrahydro-4H-pyran-4-one | 5.5 g | O1CCC(CC1)=O | C5H8O2
reactant | N-phenyl triflimide | 21.6 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 mls | C1CCOC1 | C4H8O
product | 5,6-Dihydro-4-trifluoromethylsulfonyloxy-2H-pyran | 40% yield | FC(S(=O)(=O)OC1=CCOCC1)(F)F | C6H7F3O4S
